US08372842B2
A mixture of tert-butyl 4-(5-cyclopropyl-3-iodo-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate (200 mg, 0.426 mmol) and 4N HCl in dioxane (4 mL) was stirred at room temperature for 2 hours. The solvent was then removed in vacuo, and the residue was triturated with CH3CN. The solid formed was filtered, washed with Et2O and dried to provide 5-cyclopropyl-3-iodo-4-(piperazin-1-yl)-1H-pyrazolo[3,4-b]pyridine hydrochloride salt (179 mg, 95% yield) as a solid. 1H NMR (400 MHz, d6-DMSO) δ 9.47 (br s, 2H), 8.32 (s, 1H), 3.67-3.62 (m, 4H), 3.42-3.35 (m, 4H), 2.09-2.03 (m, 1H), 1.07-1.01 (m, 2H), 0.80-0.76 (m, 2H); LCMS (APCI+) m/z 370 (M+H)+, Retention time=1.87 minutes.

reactant | tert-butyl 4-(5-cyclopropyl-3-iodo-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate | 0.426 mmol, 200 mg | C1(CC1)C=1C(=C2C(=NC1)NN=C2I)N2CCN(CC2)C(=O)OC(C)(C)C | C18H24IN5O2
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | 5-cyclopropyl-3-iodo-4-(piperazin-1-yl)-1H-pyrazolo[3,4-b]pyridine hydrochloride salt | 179 mg, 95% yield | Cl.C1(CC1)C=1C(=C2C(=NC1)NN=C2I)N2CCNCC2 | InChI=1S/C13H16IN5.ClH/c14-12-10-11(19-5-3-15-4-6-19)9(8-1-2-8)7-16-13(10)18-17-12;/h7-8,15H,1-6H2,(H,16,17,18);1H
